US06043254
(a) 5-(4-amino-benzyl)-thiazolidin-2,4-dione
Prepared by catalytic hydrogenation of 5-(4-amino-benzylidene)-thiazolidin-2,4-dione in glacial acetic acid on palladium/charcoal (10%) (50° C., 3.5 bar, 6 hours).

reactant | 5-(4-amino-benzylidene)-thiazolidin-2,4-dione | NC1=CC=C(C=C2C(NC(S2)=O)=O)C=C1 | C10H8N2O2S
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-(4-amino-benzyl)-thiazolidin-2,4-dione | NC1=CC=C(CC2C(NC(S2)=O)=O)C=C1 | C10H10N2O2S
